*****************************************************************
* NXP PSMN4R0_25YLC
*
* Polarity N-Channel
* Ratings 25V/4.50E-03OHMS/20A
*
* Date Created Wed Apr 13 02:50:15 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R0-25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 25000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00257960321311079 TC=0.00519850857719422,3.96495417857218e-06
RBD 9 4 0.00120010675176111 TC=0.00519850857719422,3.96495417857218e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 25000000000
CGS 2 6 1.16139077316621e-09
RG 1 2 2.07663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	1536
+ -10	1530
+ -5	1529
+ -4	1528
+ -3	1516
+ -2	1300
+ -1	954
+ -0.5	811
+ -0.2	716
+ -0.1	684
+ 0	649.35
+ 0.1	601.4
+ 0.2	553.9
+ 0.5	429.4
+ 1	298.7
+ 2	206.0
+ 3	175.0
+ 4	158.4
+ 5	147.6
+ 6	140.2
+ 8	130.3
+ 10	123.6
+ 12	119.4
+ 15	115.2
+ 20	109.6


.MODEL MINT NMOS(Vto=1.91831767210935 Kp=2.4361e+02 Nfs=380000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=900)

.MODEL DBD D(Bv=26.00 Ibv=2.50E-04 Rs=1E-6 Is=1.18580572961628e-12
+ N=1 M=0.64 VJ=0.75 Fc=0.5 Cjo=1.4089e-09 Tt=2e-08)

.ENDS
